US08334236B2
0.83 g (3.0 mmol) of 1-methyl-2-oxo-7-(trifluoromethyl)-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid was dissolved in dichloromethane (50 mL), and 1.0 mL (12 mmol) of oxalyl chloride was added thereto. Two droplets of N,N-dimethylformamide were added to the above mixture, and the resulting mixture was stirred for 2 hours at 40° C. The reaction solution was concentrated under reduced pressure, and thus 1-methyl-2-oxo-7-(trifluoromethyl)-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid chloride was obtained. The acid chloride thus obtained was dissolved in acetonitrile (30 mL), and this solution was added to an acetonitrile (50 mL) solution of 0.38 g (3.4 mmol) of 1,3-cyclohexanedione and 0.51 mL (3.7 mmol) of triethylamine under ice cooling. The resulting mixture was stirred for 2 hours at room temperature. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The organic phase was washed with water, an aqueous solution of sodium hydrogen carbonate, and water in this order, and was dried and concentrated. The residue was washed with diisopropyl ether, and thus 0.51 g (yield: 46%) of the title compound was obtained as brown crystals.

reactant | 1-methyl-2-oxo-7-(trifluoromethyl)-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid | 3.0 mmol, 0.83 g | CN1C(C(=CC2=CC=C(N=C12)C(F)(F)F)C(=O)O)=O | C11H7F3N2O3
reactant | oxalyl chloride | 12 mmol, 1.0 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-methyl-2-oxo-7-(trifluoromethyl)-1,2-dihydro-1,8-naphthyridine-3-carboxylic acid chloride | CN1C(C(=CC2=CC=C(N=C12)C(F)(F)F)C(=O)Cl)=O | C11H6ClF3N2O2
